US05811455
18a. 4-(3-Cyclopentyloxy-4-methoxyphenyl)-4-ethynylcyclohexan-1-one dimethyl ketal
To a solution of potassium t-butoxide (0.155 g, 1.38 mmol) in dry tetrahydrofuran (5 mL) under an argon atmosphere at -78° C. was added a solution of dimethyl (diazomethyl)phosphonate (ca. 88% pure, 0.24 g, 1.38 mmol). After 0.25 h, a solution of 4-(3-cyclopentyloxy-4-methoxyphenyl)-4-formylcyclohexan-1-one dimethyl ketal (0.42 g, 1.15 mmol) in dry tetrahydrofuran (5 mL) was added dropwise and the mixture was allowed to stir at -78° C. under an argon atmosphere for 5 h. Aqueous acetic acid was added, the mixture was concentrated, partitioned between methylene chloride and water and extracted twice. The organic extract was dried (magnesium sulfate) and evaporated. Purification by flash chromatography, eluting with 3:1 hexanes/ethyl acetate, provided an oil (0.13 g, 32%).

reactant | potassium t-butoxide | 1.38 mmol, 0.155 g | CC(C)([O-])C.[K+]
reactant | dimethyl (diazomethyl)phosphonate | 1.38 mmol, 0.24 g | [N+](=[N-])=CP(OC)(OC)=O | C3H7N2O3P
reactant | 4-(3-cyclopentyloxy-4-methoxyphenyl)-4-formylcyclohexan-1-one dimethyl ketal | 1.15 mmol, 0.42 g | COC1(CCC(CC1)(C=O)C1=CC(=C(C=C1)OC)OC1CCCC1)OC | C21H30O5
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 4-(3-Cyclopentyloxy-4-methoxyphenyl)-4-ethynylcyclohexan-1-one dimethyl ketal | 0.13 g, 32% | COC1(CCC(CC1)(C#C)C1=CC(=C(C=C1)OC)OC1CCCC1)OC | C22H30O4
